US05055451
N-Benzyloxycarbonyl-L-phenylalanyl-L-alanine Bromomethyl Ketone And Other Compounds of Formula (3a)
N-Benzyloxycarbonyl-L-leucine bromomethyl ketone (an oil) from N-benzyloxycarbonyl-L-leucine.

reactant | N-Benzyloxycarbonyl-L-leucine bromomethyl ketone | BrCC(=O)CBr.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | N-benzyloxycarbonyl-L-leucine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
product | N-Benzyloxycarbonyl-L-phenylalanyl-L-alanine Bromomethyl Ketone | BrCC(=O)CBr.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O | InChI=1S/C20H22N2O5.C3H4Br2O/c1-14(19(24)25)21-18(23)17(12-15-8-4-2-5-9-15)22-20(26)27-13-16-10-6-3-7-11-16;4-1-3(6)2-5/h2-11,14,17H,12-13H2,1H3,(H,21,23)(H,22,26)(H,24,25);1-2H2/t14-,17-;/m0./s1
